US06376719B1
1,202 g (12.0 mol) of acetylacetone was added to a 3 liter kneader equipped with a thermometer, a dropping funnel, a condenser and a jacket, and then stirred. Then 444 g [6 mol, calcium hydroxide/acetylacetone=1/2.0 (molar ratio)] of calcium hydroxide was added dropwise to the kneader over 3 hours. The reaction temperature was between 32 and 65° C. After completion of the dropping, the mixture was stirred and mixed at a temperature of 65 to 68° C. for 4 hours until the reaction was complete. The resulting product was warmed under a flow of nitrogen gas. At 68° C., the product was subjected to the drying step, and dried at 68 to 73° C. for 24 hours until the product attained a moisture content of 6.8% by weight. The dried product was cooled to give 1,550 g of yellowish white calcium acetylacetonate [yield 99.1 mol % (calcium hydroxide basis), purity 91.5% by weight].

reactant | acetylacetone | 12.0 mol, 1,202 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | calcium hydroxide | 6 mol, 444 g | [OH-].[Ca+2].[OH-]
product | calcium acetylacetonate | 1,550 g | CC(=CC(=O)C)[O-].CC(=CC(=O)C)[O-].[Ca+2] | InChI=1S/2C5H8O2.Ca/c2*1-4(6)3-5(2)7;/h2*3,6H,1-2H3;/q;;+2/p-2
